2186-10-21 05:12:00 Physician Resident Progress Note
Chief Complaint: aphasia, r side weakness
   24 Hour Events:
 ARTERIAL LINE - START [**2186-10-20**] 12:30 PM
   post tpa icu care. difficulty finding distal LE pulses, and noted
   difficult arterial access in angio, IR aware. improved after fem sheath
   removed.  Given evidence of difficult intubation and not meeting
   criteria, held off on intubation until morning. went to MRI.
   History obtained from Family / [**Hospital 380**] Medical records
   Patient unable to provide history: vented
   Allergies:
   Penicillins
   Unknown;
   Hydrochlorothiazide
   high blood [**Last Name (un) 2174**]
   Ibuprofen
   gi irritation;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2186-10-20**] 01:30 PM
   Hydralazine - [**2186-10-20**] 01:35 PM
   Famotidine (Pepcid) - [**2186-10-20**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Genitourinary: Foley
   Neurologic: R side weakness
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2186-10-21**] 05:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 72 (56 - 76) bpm
   BP: 126/48(74) {111/43(66) - 159/68(100)} mmHg
   RR: 18 (9 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.9 kg (admission): 75 kg
             Total In:
                                                                  1,234 mL
                                                                  1,195 mL
   PO:
             TF:
   IVF:
                                                                  1,234 mL
                                                                  1,195 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    330 mL
   Urine:
                                                                    730 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    114 mL
                                                                    865 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 501 (500 - 501) mL
   Vt (Spontaneous): 430 (430 - 500) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/37/209/23/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 418
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal, R side weakness UE>LE
   Labs / Radiology
   184 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   19 mg/dL
   115 mEq/L
   145 mEq/L
   26
        [image002.jpg]
                            [**2186-10-20**]  11:36 AM
                            [**2186-10-20**]  12:32 PM
                            [**2186-10-20**]  06:25 PM
                            [**2186-10-21**]  12:18 AM
                            [**2186-10-21**]  02:12 AM
                            [**2186-10-21**]  02:22 AM
   Hct
   28
   26.7
   27.0
   25.9
   26
   Cr
   0.8
   TCO2
   25
   Glucose
   184
   Other labs: Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
   ASSESSMENT AND PLAN:  76 yo F, acute L MCA stroke s/p 50% dose systemic
   tpa and local intrarterial tpa
   NEUROLOGIC:  intubated/sedated
   Neuro checks Q:  post tpa protocol: q15min x 2h, q30 min x 6h, qh after
   that.
   neuro recs: - No instrumentation (including no lab draws) for 24 hours
   - Needs q15 minute neuro checks for 2 hours, then q30 minute neuro
   checks for 6 hours, then q1h neuro checks for 16 hours.
   - Goal SBP < 180 with prn labetalol; hold other anti-hypertensives to
   allow for auto-regulation except metoprolol
   - Repeat NCHCT within 1 hour post-IA procedure and again at 9 am
   tomorrow
   - MRI to assess extent of infarct
   - TTE
   - check A1c, FLP
   - Hold ASA, Plavix for at least 24 hours post tPA
   - Cont statin
   - Tylenol, ISS
   - Hold metformin post contrast
   - If any neurologic change, obtain STAT non-contrast Head CT
   Pain:  fentanyl prn
   CARDIOVASCULAR:  BP goal 130-180, currently stable post procedure. Gave
   fluid bolus to maintain bp. unable to doppler distal pulses, IR to
   eval. Hold ASA and Plavix as above, TTE, BP control as above, Cont
   Toprol XL to prevent rebound tachycardia, Cont statin, CEs
   PULMONARY:  intubated, following commands, will re-eval in am for
   extubation, h/o difficult airway and though respiratory settings
   minimal.  Now meets extubation criteria..
   GI / ABD:  NPO
   NUTRITION:  consdider TF tmw.
   RENAL:  stable, cr 1
   HEMATOLOGY:  Hct stable. given large vol blood in angio, monitor for
   bleeding. Hct drop 31.5 to 26.5, will follow q6 overnight, no si active
   bleeding.
   ENDOCRINE:  SSI
   ID:  no issues
   LINES/TUBES/DRAINS:  ETT,
   WOUNDS:  none
   IMAGING:  post tpa CT, MRI, morning CT
   FLUIDS:  NS @ 70
   CONSULTS:  primary neuro
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL:  ssi
   PROPHYLAXIS:
   DVT -  boots
   STRESS ULCER -  h2
   VAP BUNDLE -  yes
   COMMUNICATIONS:
   ICU Consent:  to obtain
   CODE STATUS:  full
   DISPOSITION:  ticu
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2186-10-20**] 12:30 PM
   18 Gauge - [**2186-10-20**] 12:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: to obtain
   Code status: Full code
   Disposition:ICU